US05500423
8-Amino-1,2,3,4-Tetrahydroquinoline
To a solution of 20.00 g of 8-aminoquinoline in boiling absolute ethanol (400 ml) was added 44.74 g of sodium pellets over 20 mins, with stirring, until the sodium is dissolved. The reaction mixture was poured into water (50 ml) and concentrated. The residue was diluted with sodium bicarbonate solution and the mixture was extracted with dichloromethane. The extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was distilled under vacuum to give 10.77 g (52.3%) of product.

reactant | 8-aminoquinoline | 20.00 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | sodium | 44.74 g | [Na] | Na
solvent | water | 50 ml | O | H2O
product | 8-Amino-1,2,3,4-Tetrahydroquinoline | 10.77 g, 52.3% | NC=1C=CC=C2CCCNC12 | C9H12N2
